US08445499B2
Preparation of tert-butyl 1′-[4-(methylthio)phenyl]-4,4′-bipiperidine-1-carboxylate
A suspension of 4-methylthiophenylboronic acid (240 mg; 1.43 μmol) in dichloromethane (6 mL) was treated with activated powdered 4 Å molecular sieves (1.5 g), Cu(OAc)2 (87 mg; 0.477 mmol), tert-butyl 4,4′-bipiperidine-1-carboxylate (128 mg; 0.477 mmol) and triethylamine (134 μL; 0.954 mmol). The reaction vessel was purged with oxygen and the mixture stirred under an oxygen atmosphere at ambient temperature for 18 hr. The now brown mixture was filtered through Celite. The eluant was adsorbed onto silica gel. The silica gel was exhaustively eluted without fractionation (1:1 hex/MTBE). The eluant was evaporated to a yellow oil and chromatographed (PTLC; 2:1 hex/MTBE). The major band was collected affording the title compound. LRMS calc: 390.2 obs: 391.1 (M+H), 291.1 (M-BOC+H).

reactant | 4-methylthiophenylboronic acid | 1.43 μmol, 240 mg | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | tert-butyl 4,4′-bipiperidine-1-carboxylate | 0.477 mmol, 128 mg | N1(CCC(CC1)C1CCNCC1)C(=O)OC(C)(C)C | C15H28N2O2
reactant | triethylamine | 0.954 mmol, 134 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
catalyst | Cu(OAc)2 | 0.477 mmol, 87 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | tert-butyl 1′-[4-(methylthio)phenyl]-4,4′-bipiperidine-1-carboxylate | CSC1=CC=C(C=C1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H34N2O2S
